US05750531
Synthesis of 2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinoline-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After N-methylaniline(0.50 ml, 4.8 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline(0.75 g, 2.40 mmol) and dimethylformamide(5 ml), 0.26 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 4.8 mmol, 0.50 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline | 2.40 mmol, 0.75 g | CC1N(CCC2=CC=CC=C12)C1=NC(=NC=2CCCCC12)Cl | C18H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinoline-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.26 g, Yield: 26% | Cl.CN(C1=NC=2CCCCC2C(=N1)N1C(C2=CC=CC=C2CC1)C)C1=CC=CC=C1 | InChI=1S/C25H28N4.ClH/c1-18-21-13-7-6-10-19(21)16-17-29(18)24-22-14-8-9-15-23(22)26-25(27-24)28(2)20-11-4-3-5-12-20;/h3-7,10-13,18H,8-9,14-17H2,1-2H3;1H
